US08703761B2
C. 4-Fluoro-N-[1-methyl-1-(4-phenyl-5-piperazin-1-ylmethyl-thiazol-2-ylcarbamoyl)-ethyl]-benzamide
A solution of 4-{2-[2-(4-Fluoro-benzoylamino)-2-methyl-propionylamino]-4-phenyl-thiazol-5-ylmethyl}-piperazine-1-carboxylic acid tert-butyl ester (70 mg) and TFA (1.5 mL) in dichloromethane (3 mL) was stirred at RT for 2 h and concentrated. The residue was partitioned between dichloromethane and aq. K2CO3. The organic extract was dried over MgSO4, concentrated and purified by HPLC to give the title compound. m/z 482.2 (MH+). 1H NMR (CD3OD) 7.98-7.96 (m, 2H), 7.57 (d, J=8 Hz, 2H), 7.41 (t, J=8 Hz, 2H), 7.35 (d, J=8 Hz, 2H), 7.21 (t, J=8 Hz, 2H), 3.75 (s, 2H), 2.88-2.85 (m, 4H), 2.55-2.45 (m, 4H).

reactant | 4-{2-[2-(4-Fluoro-benzoylamino)-2-methyl-propionylamino]-4-phenyl-thiazol-5-ylmethyl}-piperazine-1-carboxylic acid tert-butyl ester | 70 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=C(N=C(S1)NC(C(C)(C)NC(C1=CC=C(C=C1)F)=O)=O)C1=CC=CC=C1 | C30H36FN5O4S
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-Fluoro-N-[1-methyl-1-(4-phenyl-5-piperazin-1-ylmethyl-thiazol-2-ylcarbamoyl)-ethyl]-benzamide | FC1=CC=C(C(=O)NC(C)(C(NC=2SC(=C(N2)C2=CC=CC=C2)CN2CCNCC2)=O)C)C=C1 | C25H28FN5O2S
